US08193178B2
Step A: 3-Ethoxycarbonylamino-thiophene-2-carboxylic acid methyl ester
To a solution of 3-amino-thiophene-2-carboxylic acid methyl ester (2.39 g, 15.2 mmol) in benzene (51 mL) was added K2CO3 (6.30 g, 45.6 mmol) followed by ethyl chloroformate (1.74 mL, 18.2 mmol). After heating at reflux for 12 h, the mixture was filtered and the filtrate was concentrated to afford the desired product (3.43 g), which was used in the next step without further purification. MS: 230.0. 1H NMR (400 MHz, CD3OD) δ ppm 7.82 (d, J=5.5 Hz, 1H), 7.66 (d, J=5.6 Hz, 1H), 4.23 (q, J=7.1 Hz, 2H), 3.86 (s, 3H), 1.32 (t, J=7.1 Hz, 3H).

reactant | 3-amino-thiophene-2-carboxylic acid methyl ester | 15.2 mmol, 2.39 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | K2CO3 | 45.6 mmol, 6.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 18.2 mmol, 1.74 mL | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 51 mL | C1=CC=CC=C1 | C6H6
product | 3-Ethoxycarbonylamino-thiophene-2-carboxylic acid methyl ester | 3.43 g | COC(=O)C=1SC=CC1NC(=O)OCC | C9H11NO4S
